US07612114B2
6-[2-(4-Hydroxyphenyl)ethyl]-3′-(2-piperidin-1-ylethoxy)biphenyl-3-ol
Synthesized from 5′-methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-3-ol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-{5′-methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-3-yloxy}ethyl}piperidine (200 mg) was used according to an analogous synthetic method to Example 779 to provide the title compound (122 mg).

reactant | 5′-methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-3-ol | COC=1C=CC(=C(C1)C1=CC(=CC=C1)O)CCC1=CC=C(C=C1)OC | C22H22O3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 1-{2-{5′-methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-3-yloxy}ethyl}piperidine | 200 mg | COC=1C=CC(=C(C1)C1=CC(=CC=C1)OCCN1CCCCC1)CCC1=CC=C(C=C1)OC | C29H35NO3
product | 6-[2-(4-Hydroxyphenyl)ethyl]-3′-(2-piperidin-1-ylethoxy)biphenyl-3-ol | 122 mg | OC1=CC=C(C=C1)CCC1=CC=C(C=C1C1=CC(=CC=C1)OCCN1CCCCC1)O | C27H31NO3
